US06187802B1
A solution of imidazolidine-2-thione (4.5 g) in acetone (750 ml ) was added to a solution of 2-bromo-1-[1-(3,4-dichlorophenyl)cyclobutyl]ethanone (15 g) in acetone (125 ml), then the stirred mixture was heated under reflux for 10 minutes, and allowed to cool to ambient temperature. The resulting solid was collected by filtration, washed with ethanol (50 ml) and dried in vacuo at 60° C. for 4 hours to give 1-[1-(3,4-dichlorophenyl)cyclobutyl]-2-(2-imidazolin-2-ylthio)ethanone hydrobromide as a white solid (16.3 g), m.p. 156-158° C.

reactant | imidazolidine-2-thione | 4.5 g | N1C(NCC1)=S | C3H6N2S
reactant | 2-bromo-1-[1-(3,4-dichlorophenyl)cyclobutyl]ethanone | 15 g | BrCC(=O)C1(CCC1)C1=CC(=C(C=C1)Cl)Cl | C12H11BrCl2O
solvent | acetone | 750 ml | CC(=O)C | C3H6O
solvent | acetone | 125 ml | CC(=O)C | C3H6O
product | 1-[1-(3,4-dichlorophenyl)cyclobutyl]-2-(2-imidazolin-2-ylthio)ethanone hydrobromide | 16.3 g | Br.ClC=1C=C(C=CC1Cl)C1(CCC1)C(CSC=1NCCN1)=O | InChI=1S/C15H16Cl2N2OS.BrH/c16-11-3-2-10(8-12(11)17)15(4-1-5-15)13(20)9-21-14-18-6-7-19-14;/h2-3,8H,1,4-7,9H2,(H,18,19);1H
